US08685992B2
To a solution of phenyl dichlorophosphate (0.1 ml, 0.625 mmol) in DMF (0.1 ml) at 0° C. under inert atmosphere, was added dropwise a solution of 4-[({[3-(4-methoxyphenyl)-5-phenyl-1H-pyrrol-2-yl]carbonyl}amino)methyl]benzoic acid (0.206 g, 0.5 mmol) in CH2Cl2 (2.5 ml), and the resulting mixture was stirred at room temperature for 10 minutes. 2-(Tritylsulfanyl)aniline (0.404 g, 1.0 mmol) and triethylamine (4.17 ml, 30 mmol) were added subsequently, and the mixture was stirred at room temperature for 16 h. Ethyl acetate (40 ml) was added, and the obtained solution was washed with HCl 0.1N (3×7 ml), water (7 ml), and NaOH 1N (3×7 ml), dried over Na2SO4 and evaporated under reduced pressure. This material was dissolved in CH2Cl2 (5 ml), and cooled to 0° C. Trifluoroacetic acid (0.49 ml, 6.4 mmol) and triethylsilane (0.09 ml, 0.55 mmol) were added subsequently, and the resulting mixture was stirred at room temperature for 2 h. NaHCO3 (7.7 ml, saturated aqueous solution) was added and the resulting mixture was stirred for 30 min. The organic layer was separated and the aqueous layer was extracted with CH2Cl2 (3×15 ml). The combined organic fractions were dried over Na2SO4 and evaporated under reduced pressure, to obtain 0.216 g (0.404 mmol) of 3-(4-methoxyphenyl)-5-phenyl-N-(4-{[(2-sulfanylphenyl)amino]carbonyl}benzyl)-1H-pyrrole-2-carboxamide: Yield 81%; m.p. 134-135° C.; IR 3407, 3384, 3233, 1681, 1638, 1525, 1493, 1249 cm−1; 1H-NMR (300 MHz, δ ppm, CDCl3) 10.22 (s, 1H), 8.93 (s, 1H), 8.48 (dd, J=8.3 Hz, J′=1.0 Hz, 1H), 7.63 (d, J=8.3 Hz, 4H), 7.43-7.35 (m, 6H), 7.34-7.20 (m, 4H), 6.97-6.90 (m, 3H), 6.49 (d, J=3.0 Hz, 1H), 6.24 (t, J=6.0 Hz, 1H), 4.51 (d, J=6.0 Hz, 2H), 3.81 (s, 3H); 13C-NMR (126 MHz, δ ppm, DMSO-d6) 165.4, 161.2, 158.0, 143.5, 135.9, 133.5, 133.0, 132.3, 131.6, 129.9, 128.7, 127.9, 127.8, 127.6, 127.4, 127.1, 126.9, 126.8, 124.6, 123.9, 122.6, 114.0, 113.4, 108.3, 55.0, 42.2.

reactant | phenyl dichlorophosphate | 0.625 mmol, 0.1 ml | P(=O)(OC1=CC=CC=C1)(Cl)Cl | C6H5Cl2O2P
reactant | 4-[({[3-(4-methoxyphenyl)-5-phenyl-1H-pyrrol-2-yl]carbonyl}amino)methyl]benzoic acid | 0.5 mmol, 0.206 g | COC1=CC=C(C=C1)C1=C(NC(=C1)C1=CC=CC=C1)C(=O)NCC1=CC=C(C(=O)O)C=C1 | C26H22N2O4
reactant | 2-(Tritylsulfanyl)aniline | 1.0 mmol, 0.404 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)SC1=C(N)C=CC=C1 | C25H21NS
reactant | triethylamine | 30 mmol, 4.17 ml | C(C)N(CC)CC | C6H15N
reactant | Trifluoroacetic acid | 6.4 mmol, 0.49 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 0.55 mmol, 0.09 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | NaHCO3 | 7.7 ml | C(=O)(O)[O-].[Na+]
solvent | DMF | 0.1 ml | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 2.5 ml | C(Cl)Cl | CH2Cl2
solvent | Ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | 3-(4-methoxyphenyl)-5-phenyl-N-(4-{[(2-sulfanylphenyl)amino]carbonyl}benzyl)-1H-pyrrole-2-carboxamide | 0.404 mmol, 0.216 g, Yield 81% | COC1=CC=C(C=C1)C1=C(NC(=C1)C1=CC=CC=C1)C(=O)NCC1=CC=C(C=C1)C(=O)NC1=C(C=CC=C1)S | C32H27N3O3S
